US08202858B2
4-{4-[4-(3,3-Dimethyl-butyl)-piperazin-1-yl]-4-oxo-butyl}-3-methyl-benzoic Acid
Lithium hydroxide monohydrate (108 mg, 2.6 mmol) was added to a solution of 4-{4-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-4-oxo-butyl}-3-methyl-benzoic acid methyl ester from Example E43.1 (500 mg, 1.3 mmol) in THF (12 ml) and water (6 ml). The mixture was stirred for 20 h at room temperature then solvents were removed in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 2% acetic acid:4% methanol:94% dichloromethane) then recrystallised from chloroform and pet. ether to yield the title compound (439 mg, 91%).

reactant | Lithium hydroxide monohydrate | 2.6 mmol, 108 mg | O.[OH-].[Li+]
reactant | 4-{4-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-4-oxo-butyl}-3-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)CCCC(=O)N1CCN(CC1)CCC(C)(C)C)C)=O | C23H36N2O3
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | water | 6 ml | O | H2O
product | 4-{4-[4-(3,3-Dimethyl-butyl)-piperazin-1-yl]-4-oxo-butyl}-3-methyl-benzoic Acid | 439 mg, 91% | CC(CCN1CCN(CC1)C(CCCC1=C(C=C(C(=O)O)C=C1)C)=O)(C)C | C22H34N2O3
